US04588719
2,2-Dimethyl-1-hydroxy-4-methoxyindan
A solution of 2,2-dimethyl-4-methoxyindanone (13.7 g) in anhydrous diethyl ether (575 ml) is added dropwise to a stirred suspension of LAH (2.87 g) in anhydrous diethyl ether (575 ml) and the mixture is refluxed under nitrogen for two hours. The reaction mixture is quenched with H2O, 15% aq. NaOH and H2O, stirred overnight, filtered and the filtrate evaporated in vacuo affording the desired compound as a solid.

reactant | 2,2-dimethyl-4-methoxyindanone | 13.7 g | CC1(C(C2=CC=CC(=C2C1)OC)=O)C | C12H14O2
reactant | LAH | 2.87 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 575 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 575 ml | C(C)OCC | C4H10O
product | 2,2-Dimethyl-1-hydroxy-4-methoxyindan | CC1(C(C2=CC=CC(=C2C1)OC)O)C | C12H16O2
